US05362878
N-(6-Methylthioquinolin-5-yl)-2-(4-sec-butylphenoxy)nonanoic amide
5-Amino-6-methylthioquinoline, prepare as described in Example 34, was coupled with 2-(4-sec-butylphenoxy)nonanoic acid according to the procedure described in Example 25 to give the title compound.

reactant | 5-Amino-6-methylthioquinoline | NC1=C2C=CC=NC2=CC=C1SC | C10H10N2S
reactant | 2-(4-sec-butylphenoxy)nonanoic acid | C(C)(CC)C1=CC=C(OC(C(=O)O)CCCCCCC)C=C1 | C19H30O3
product | N-(6-Methylthioquinolin-5-yl)-2-(4-sec-butylphenoxy)nonanoic amide | CSC=1C(=C2C=CC=NC2=CC1)NC(C(CCCCCCC)OC1=CC=C(C=C1)C(C)CC)=O | C29H38N2O2S
